US07589212B2
Preparation of (S)-2-(4-nitrophenyl)-1-(2-phenylthiazol-4-yl)ethanamine hydrobromide salt (3):
A mixture of [3-bromo-1-(4-nitro-benzyl)-2-oxo-propyl]-carbamic acid -tert-butyl ester, 2, (1.62 g, 4.17 mmol) and benzothioamide (0.630 g, 4.59 mmol), in CH3CN (5 mL) is refluxed for 24 hours. The reaction mixture is cooled to room temperature and diethyl ether (50 mL) is added to the solution and the precipitate which forms is collected by filtration. The solid is dried under vacuum to afford 1.059 g (63%) of the desired product. ESI+MS 326 (M+1).

reactant | [3-bromo-1-(4-nitro-benzyl)-2-oxo-propyl]-carbamic acid -tert-butyl ester | C(C)(C)(C)OC(NC(C(CBr)=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H19BrN2O5
reactant | benzothioamide | 4.59 mmol, 0.630 g | C(C1=CC=CC=C1)(N)=S | C7H7NS
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | (S)-2-(4-nitrophenyl)-1-(2-phenylthiazol-4-yl)ethanamine hydrobromide salt | 1.059 g, 63% | Br.[N+](=O)([O-])C1=CC=C(C=C1)C[C@H](N)C=1N=C(SC1)C1=CC=CC=C1 | InChI=1S/C17H15N3O2S.BrH/c18-15(10-12-6-8-14(9-7-12)20(21)22)16-11-23-17(19-16)13-4-2-1-3-5-13;/h1-9,11,15H,10,18H2;1H/t15-;/m0./s1
